US08440662B2
Step 4: 7-Bromo-1H-quinazoline-2,4-dione
To a 250 mL round bottom flask, 2-amino-4-bromo-benzoic acid (10 g, 0.0463 mol) and urea (27.78 g, 0.4629 mol) were added. The reaction mixture was stirred at 195° C. for 3 h. The reaction mixture was allowed to reach 80° C. and water was added. The aqueous reaction mixture was stirred at 80° C. for 5-10 min then allowed to reach room temperature. The solid was filtered, dried and azeotroped with toluene to afford the title compound [10 g, 90%]. This material was taken to the next step without any further purification.

reactant | 2-amino-4-bromo-benzoic acid | 0.0463 mol, 10 g | NC1=C(C(=O)O)C=CC(=C1)Br | C7H6BrNO2
reactant | urea | 0.4629 mol, 27.78 g | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 7-Bromo-1H-quinazoline-2,4-dione | 10 g, 90% | BrC1=CC=C2C(NC(NC2=C1)=O)=O | C8H5BrN2O2
